US08975254B2
a) 2-(cyanomethyl)thiazole-4-carboxylic acid
(Cyano)thioacetamide (2 g, 19.97 mmol) was stirred in excess THF (40 mL) under nitrogen atmosphere. The solution was cooled to 0° C. and the solution of 3-bromopyruvic acid (3.33 g, 19.97 mmol) dissolved in 5 mL THF was added dropwise. The mixture was refluxed for 3 h. Solvent was evaporated and the crude product was purified by flash chromatography (silica, eluent: 0-40% DCM-10% MeOH/DCM mixture) to yield 1.615 g of the title compound. 1H NMR (400 MHz; CDCl3): δ 4.20 (s, 2H), 8.33 (s, 1H).

reactant | (Cyano)thioacetamide | 19.97 mmol, 2 g | C(#N)CC(=S)N | C3H4N2S
reactant | 3-bromopyruvic acid | 19.97 mmol, 3.33 g | BrCC(C(=O)O)=O | C3H3BrO3
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(cyanomethyl)thiazole-4-carboxylic acid | 1.615 g | C(#N)CC=1SC=C(N1)C(=O)O | C6H4N2O2S
